US06228871B1
2-amino-2-(3-thiophenyl) acetonitrile hydrochloride
Sodium cyanide (3.77 g, 77 mmol) was dissolved in water (40 ml) followed by ammonium chloride (4.53 g, 84.7 mmol). Thiophene-3-carboxaldehyde (Aldrich, 8.66 g, 77 mmol) was dissolved in MEOH (60 ml) and added via addition funnel to the rapidly stirring solution in a steady stream. The reaction was allowed to proceed at room temperature overnight. The reaction was diluted with saturated NaHCO3 and extracted with diethylether (3×100 ml). Organics were combined and washed with saturated NaCl and dried over Na2SO4. Organics were concentrated and the in a minimum amount of ether and filtered. The filtrate was satured with HCl gat at 0° C. The solids that formed were filtered and washed with ether to give after drying a yellow solid (6) which was used without further purification.

reactant | Sodium cyanide | 77 mmol, 3.77 g | [C-]#N.[Na+]
reactant | ammonium chloride | 84.7 mmol, 4.53 g | [Cl-].[NH4+]
reactant | Thiophene-3-carboxaldehyde | 77 mmol, 8.66 g | S1C=C(C=C1)C=O | C5H4OS
solvent | water | 40 ml | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-amino-2-(3-thiophenyl) acetonitrile hydrochloride | Cl.NC(C#N)C1=CSC=C1 | InChI=1S/C6H6N2S.ClH/c7-3-6(8)5-1-2-9-4-5;/h1-2,4,6H,8H2;1H
